US05654316
Beta-(3,4-Dichlorophenyl)-4-hydroxy-N-methyl-N-(4-methoxyphenyl)-4-phenyl-1-piperidinepentanamide
3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-methoxyphenyl)benzene propanamide (4.2 g) in DMF (20 mL) was treated with 4-phenyl-4-hydroxypiperidine (1.53 g) and K2CO3 (1.19 g). The mixture was heated at 60° C. for 18 hours. The cooled reaction mixture was diluted the EtOAc (200 mL) and washed with H2O (3×150 mL). The organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give an oil. Silica gel chromatography eluting with 90:10 (CH2Cl2 :MeOH) gave the title compound (0.58 g). Mass spectrum (CI): 541.

reactant | 3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-methoxyphenyl)benzene propanamide | 4.2 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)OC)C)CCOS(=O)(=O)C | C20H23Cl2NO5S
reactant | 4-phenyl-4-hydroxypiperidine | 1.53 g | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | K2CO3 | 1.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Beta-(3,4-Dichlorophenyl)-4-hydroxy-N-methyl-N-(4-methoxyphenyl)-4-phenyl-1-piperidinepentanamide | 0.58 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)OC)C)CCN1CCC(CC1)(C1=CC=CC=C1)O | C30H34Cl2N2O3
